US06468998B1
2-(2-pyridyl)phenylacetic acid and (S)-3-amino-1-(2-phenylethyl)pyrrolidine were reacted under the same conditions as in Example 23 to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-2-(2-pyridyl)phenylacetamide.

reactant | 2-(2-pyridyl)phenylacetic acid | N1=C(C=CC=C1)C1=C(C=CC=C1)CC(=O)O | C13H11NO2
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-2-(2-pyridyl)phenylacetamide | C1(=CC=CC=C1)CCN1C[C@H](CC1)NC(CC1=C(C=CC=C1)C1=NC=CC=C1)=O | C25H27N3O
